US05567698
(6R)-trans-3-Iodomethyl-7-[(2,5-dichlorophenyl)thioacetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate, diphenylmethyl ester (3.00 g, 4.14 mmol) was dissolved in THF (50 mL) at 0° C. and treated with 4-mercaptopyridine (0.504 g, 4.54 mmol). A solution of 2,6-lutidine (0.576 g, 5.38 mmol) in THF (1 mL) was added next, and the reaction mixture was stirred at 0° C. for 0.5 h and then at 20° C. for 1 h. The mixture was diluted with ethyl acetate (500 mL) and the organic solution was washed with water (2×500 mL) and brine (100 mL). The solution was then dried (MgSO4) and evaporated under reduced pressure to give an oil which was treated with Et2O (50 mL) to give a solid. The solid was collected by filtration and purified by column chromatography on silica gel (CH2Cl2 to 30% EtOAc/CH2Cl2) to give 1.50 g of (6R)-trans-3-[(4-pyridylthiomethyl]-7-[(2,5-dichlorophenyl)thioacetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate, diphenylmethyl ester as a tan solid (49% yield), m.p. 122° C. 1H NMR (300 MHz, CDCl3) δ3.37 (d, J=18 Hz, 1H), 3.52 (d, J=18 Hz, 1H), 3.68 (d, J=17 Hz, 1H), 3.76 (d, J=17 Hz, 1H), 3.96 (d, J=13 Hz, 1H), 4.16 (d, J=13 Hz, 1H), 4.93 (d, J=5 Hz, 1H), 5.76 (dd, J=5, 9 Hz, 1H), 6.95-7.42 (m, 16H), 7.49 (d, J=9 Hz, 1H), 8.29 (d, J=6 Hz, 2H). Anal. Calcd. for C34H27N3O4S3Cl2 : C, 57.62; H, 3.84; N, 5.93. Found: C, 57.27; H, 3.68; N, 5.79.

reactant | (6R)-trans-3-Iodomethyl-7-[(2,5-dichlorophenyl)thioacetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate | ICC1=C(N2C([C@H]([C@H]2SC1)NC(CC1=C(C=CC(=C1)Cl)Cl)=S)=O)C(=O)[O-]
reactant | 4-mercaptopyridine | 4.54 mmol, 0.504 g | SC1=CC=NC=C1 | C5H5NS
reactant | 2,6-lutidine | 5.38 mmol, 0.576 g | N1=C(C=CC=C1C)C | C7H9N
reactant | Et2O | 50 mL | CCOCC | C4H10O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | (4-pyridylthiomethyl]-7-[(2,5-dichlorophenyl)thioacetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate | N1=CC=C(C=C1)SCOC(=O)C=1N2C(C(C2SCC1)NC(CC1=C(C=CC(=C1)Cl)Cl)=S)=O | C21H17Cl2N3O3S3
